US07947851B2
Step a) Formation of 6-[{4-[(4-butylphenyl)ethynyl]benzyl}(1-naphthylmethyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one
To a solution of 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one (150 mg, 0.34 mmol) in anhydrous DCE (3 mL) were added 1-naphtaldehyde (Fluka, 70 μL, 0.51 mmol) and sodium triacetoxyborohydride (110 mg, 0.51 mmol). The reaction mixture was stirred at rt for 72 hrs. The solvent was removed under reduced pressure. The residue was taken up with an aqueous solution of NaOH (2 mL, 1N) and extracted with Et2O (6 ml). The organic layer was dried over Na2SO4 and the solvent was removed under reduced pressure. Purification by flash chromatography on silicagel (pentane/DCM (2/3)) gave 72 mg (36%) of the title compound as a yellow oil. HPLC, Rt: 6.2 min (purity: 100%). 1H NMR (CDCl3) δ: 7.91-7.80 (m, 3H), 7.54-7.27 (m, 11H), 7.17 (d, J=7.9 Hz, 2H), 7.08 (m, 1H), 6.78 (d, J=8.7 Hz, 1H), 5.20 (s, 2H), 4.70 (s, 2H), 2.63 (t, J=7.7 Hz, 2H), 1.69 (s, 6H), 1.61 (m, 2H), 1.37 (m, 2H), 0.94 (t, J=7.4 Hz, 3H).

reactant | 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 0.34 mmol, 150 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C29H29NO3
reactant | 1-naphtaldehyde | 0.51 mmol, 70 μL | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium triacetoxyborohydride | 0.51 mmol, 110 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
product | 6-[{4-[(4-butylphenyl)ethynyl]benzyl}(1-naphthylmethyl)amino]-2,2-dimethyl-4H-1,3-benzodioxin-4-one | 72 mg, 36% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC3=C(OC(OC3=O)(C)C)C=C2)CC2=CC=CC3=CC=CC=C23)C=C1 | C40H37NO3
